US05883106
A. 1-Cyano-1-(3-methoxyphenyl)cyclobutane
To a solution of (3-methoxyphenyl)acetonitrile (3.0 g, 20.0 mmol) in DMSO (120 ml) was added 3 drops of 15-crown-5 and sodium hydride (60% w/w dispersion in mineral oil, 1.6 g) at room temperature and the reaction mixture was stirred for 30 min. Sodium iodide (3.6 g 24 mmol) and 1,3-dibromopropane (8.0 g 40 mmol) were added and the mixture stirred overnight. 2N HCl (50 ml) was added and the mixture extracted with ether (100 ml×2). The combined extracts were washed with water (100 ml×2) and brine (100 ml ), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 300 g; hexane/ethyl acetate (20/1)) to afford 2.10 g (56%) of titled compound as a colorless oil.

reactant | (3-methoxyphenyl)acetonitrile | 20.0 mmol, 3.0 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | Sodium iodide | 24 mmol, 3.6 g | [I-].[Na+]
reactant | 1,3-dibromopropane | 40 mmol, 8.0 g | BrCCCBr | C3H6Br2
reactant | HCl | 2N, 50 ml | Cl | ClH
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
catalyst | 15-crown-5 | 3 drops | C1COCCOCCOCCOCCO1 | C10H20O5
product | 1-Cyano-1-(3-methoxyphenyl)cyclobutane | 2.10 g, 56% | C(#N)C1(CCC1)C1=CC(=CC=C1)OC | C12H13NO
